US06903114B2
(a) (6,7-Dimethoxy-naphthalen-2-yl)-phenyl-methanone
Aluminum chloride (16.0 g) was added to a solution of 2,3-dimethoxynaphthalene (18.0 g) and benzoylchloride (12.0 g) in cold methylene chloride (400 ml) and the solution was stirred overnight. After treatment with cold water the phases were separated and the methylene chloride phase washed with 1 M sodium hydroxide. The product was triturated with warm ether. Yield: 7 g, melting point 124-125° C.

reactant | Aluminum chloride | 16.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,3-dimethoxynaphthalene | 18.0 g | COC1=CC2=CC=CC=C2C=C1OC | C12H12O2
reactant | benzoylchloride | 12.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | (6,7-Dimethoxy-naphthalen-2-yl)-phenyl-methanone | COC=1C=C2C=CC(=CC2=CC1OC)C(=O)C1=CC=CC=C1 | C19H16O3
